US09403798B2
[2-(Trifluoromethyl)benzofuran-5-yl]methanol
To an ethanol solution (2.0 mL) of 2-(trifluoromethyl)benzofuran-5-carbaldehyde (220 mg, 1.03 mmol) synthesized in Reference Synthesis Example 95, sodium borohydride (115 mg, 3.05 mmol) was added and the resultant solution was stirred at 70° C. for 1 hour and 30 minutes. After completion of the reaction, the reaction solution was cooled to room temperature and acetic acid was added to the cooled solution, followed by concentrating the resultant mixture under reduced pressure. To the obtained residue, water was added and extraction with dichloromethane from the resultant mixture was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the title compound (219 mg, yield 99%).

reactant | ethanol | 2.0 mL | C(C)O | C2H6O
reactant | 2-(trifluoromethyl)benzofuran-5-carbaldehyde | 1.03 mmol, 220 mg | FC(C=1OC2=C(C1)C=C(C=C2)C=O)(F)F | C10H5F3O2
reactant | sodium borohydride | 3.05 mmol, 115 mg | [BH4-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [2-(Trifluoromethyl)benzofuran-5-yl]methanol | 219 mg, yield 99% | FC(C=1OC2=C(C1)C=C(C=C2)CO)(F)F | C10H7F3O2
